US08461387B2
(a) Preparation of 2,6-di-tert-butyl-4-((2,4,4-trimethylpentan-2-ylimino)methyl)phenol
To a nitrogen-charged 250 mL, 4-necked round bottom flask equipped with a TEFLON-coated magnetic stirrer, a thermometer, nitrogen gas flow, addition funnel, and a Dean-Stark apparatus equipped with a condenser and a receiver was added 9.8590 g (0.042 moles) of 3,5,-di-t-butyl-4-hydroxybenzaldehyde followed by 100 mL of toluene with vigorous stirring. The solution was not clear and the aldehyde was not soluble in toluene at room temperature. 5.8 gm of t-octylamine was added into the reaction via addition funnel. The reaction flask was slowly heated to 60° C. by heating mantle, and the temperature was controlled by a THERM-O-WATCH® Controller/Monitor. The solution became clear dark reddish brown. The reaction was monitored for 2 hours at 60° C. by Thin Layer Chromatography (TLC). Then the temperature was raised to 110° C. to remove the water by azeotrope with toluene. The azeotrope of water and toluene was collected in a receiver attached to Dean-Stark. After the calculated amount of water was removed, the reaction was cooled to room temperature. The completion of the reaction was monitored by Infra Red Spectroscopy (IR) analysis and by the amount of water collected in the Dean-Stark receiver. The IR analysis confirmed the disappearance of wave number 1682 cm−1 (aldehyde C═O) and appearance of wave number 1621 cm−1 (imine C═N). The imine was collected by evaporating toluene using a rotary evaporator under water aspiration with 94.48% yield.

reactant | 3,5,-di-t-butyl-4-hydroxybenzaldehyde | 0.042 moles, 9.8590 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | t-octylamine | 5.8 gm | C(C)(C)(CC(C)(C)C)N | C8H19N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2,6-di-tert-butyl-4-((2,4,4-trimethylpentan-2-ylimino)methyl)phenol | 94.48% yield | C(C)(C)(C)C1=C(C(=CC(=C1)C=NC(C)(CC(C)(C)C)C)C(C)(C)C)O | C23H39NO
